US08912227B1
Into a 100-mL round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 2-(benzyloxy)-5-bromo-1,3-difluorobenzene (7.0 g, 23.40 mmol, 1.00 equiv) in tetrahydrofuran (20 mL) at −78° C. To the resulting mixture was then added n-BuLi (11.3 mL). The resulting mixture was stirred for 1 h at −78° C. To the resulting mixture was then added N,N-dimethylformamide (6 mL). The resulting solution was stirred for 1 h at −78° C. The reaction was then quenched by the addition of water (10 mL). The resulting solution was extracted with ethyl acetate (3×20 mL) and the organic layers combined and dried over anhydrous sodium sulfate. The solids were filtered out and the resulting mixture was then concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:8) to yield 4-(benzyloxy)-3,5-difluorobenzaldehyde/3-(benzyloxy)-2,4-difluorobenzaldehyde as colorless oil.

reactant | 2-(benzyloxy)-5-bromo-1,3-difluorobenzene | 23.40 mmol, 7.0 g, 1.00 equiv | C(C1=CC=CC=C1)OC1=C(C=C(C=C1F)Br)F | C13H9BrF2O
reactant | n-BuLi | 11.3 mL | [Li]CCCC
reactant | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 4-(benzyloxy)-3,5-difluorobenzaldehyde 3-(benzyloxy)-2,4-difluorobenzaldehyde | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1F)F.C(C1=CC=CC=C1)OC=1C(=C(C=O)C=CC1F)F | 2C14H10F2O2
